Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
PCI (___)

 
History of Present Illness:
___ with history of pAF, HTN, HLD, anxiety, depression, p/w 
chest
pain.

On ___ was at ___ party and drank 3 ___
whiskey's over several hours followed by a large coffee. After
the coffee he had ___ anterior chest pain that felt like
"burning". He thought it was heartburn but more severe. Lasted
for 45 minutes. He presented to ___.

At ___, his chest pain had resolved. Trop T < 0.01 - > 0.06
(drawn 1 hr apart). Serial EKGs checked and there were no
ischemic changes. Recommended admission but he refused and
decided to leave ___. He received enoxaparin sq prior to
discharge. He remained chest pain free. He then presented to
___ ED at request of PCP. 

In the ED, initial VS were:  
- 96.8 58 184/90 16 99% RA 
- exam was unremarkable
- Labs notable for trop-T 0.19 -> 0.15, MB wnl
- he received
___ 14:47 PO Aspirin 324 mg ___  
___ 16:16 IV Heparin 4000 UNIT ___  
- EKG: sinus 58bpm, nl axis, nl intervals, no ischemic ST-T wave
changes
- CXR:
No acute intrathoracic process.
- Cardiology consulted. Recommended heparin gtt, NPO at 
midnight.

On arrival to the floor her continues to feel well, without any
chest pain. He requests Ativan for anxiety.

 
Past Medical History:
pAF (not on anticoagulation)
HTN
Dyslipidemia
GERD
Anxiety
Depression
 
Social History:
___
Family History:
Mother passed away from metastatic skin cancer.
Father had asthma, emphysema.
No known family history of early heart disease
 
Physical Exam:
Vitals: ___ ___ Temp: 98.1 PO BP: 135/66 HR: 49 RR: 16 O2
sat: 99% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
 Telemetry: no events
 PHYSICAL EXAM  
 General: comfortable, nad
 Lungs: no excess wob, good air movement, ctab
 CV: rrr
 Abdomen: soft, ntnd  
 Ext: no peripheral edema
 MEDS: see below  
 LABS: see below  
 MICRO: none
 STUDIES: none

 
Pertinent Results:
___ 07:50AM BLOOD WBC-7.2 RBC-4.60 Hgb-14.3 Hct-41.6 MCV-90 
MCH-31.1 MCHC-34.4 RDW-12.6 RDWSD-41.7 Plt ___
___ 07:50AM BLOOD Plt ___
___ 07:50AM BLOOD Glucose-109* UreaN-13 Creat-1.2 Na-139 
K-4.8 Cl-104 HCO3-22 AnGap-13
___ 08:10AM BLOOD CK(CPK)-160
___ 10:40PM BLOOD cTropnT-0.12*
___ 12:12AM BLOOD CK-MB-4 cTropnT-0.15*
___ 02:30PM BLOOD cTropnT-0.19*
___ 02:30PM BLOOD Triglyc-215* HDL-30* CHOL/HD-5.4 
LDLcalc-86
___ 08:06PM BLOOD %HbA1c-5.9 eAG-___ with history of pAF (without recurrence for many years, off
AC), HTN, dyslipidemia, p/w acute chest pain found to have 
NSTEMI. He underwent PCI with DES to proximal LAD.

# NSTEMI: 
Patient presented with chest pain, last episode on ___. EKG 
without ischemic changes. Although admitted elevated troponin of 
0.19 that downtrended. He was given aspirin, heparin gtt, 
metoprolol, and high intensity statin. He received cardiac cath 
on ___ which revealed severe single vessel disease (ostial 
LAD), that was treated with successful PTCA, ___ 1 to ___ 
LAD with final kissing balloon PTCA of ostial LAD/LCx. Patient 
discharged with on DAPT with aspirin/Plavix. 

# pAF: per pt. not on AC as this has not recurred in many years. 
Discharged with outpatient heart monitor 

CHRONIC ISSUES: 
================ 
# GERD: Pantoprazole daily
# Depression: escitalopram 10mg daily
# Anxiety: continue Ativan 0.5mg daily PRN

TRANSITIONAL ISSUES
[]will need to f/u outpatient event monitor to evaluate for 
recurrence of afib

New meds:
-aspirin 81mg, Plavix 75mg

Changed meds:
-rosuvastatin 10mg -> 40mg
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO DAILY:PRN anxiety 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Rosuvastatin Calcium 10 mg PO QPM 
5. Fenofibrate 145 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Escitalopram Oxalate 10 mg PO DAILY  
5.  Fenofibrate 145 mg PO DAILY  
6.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
NSTEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you.

Why you were admitted?
-You were admitted because you were having chest pain.

What we did for you?
-You had a cardiac cath which revealed narrowing of the arteries 
that supply your heart. You had a stent placed to open up the 
narrowing.

What should you do when you leave the hospital?
-Please take all your medications as prescribed. It is extremely 
important that you take Plavix (clopidogreL) every single day. 
Please call your doctor if you run out of your medication or 
miss ___ dose.
-Please attend your follow up appointments.

We wish you the best,
Your ___ team. 
 
Followup Instructions:
___